US06689806B1
Ethyl iodide (o.47 mL, 6 mmol) was added to a stirred mixture of silver trifluoromethanesulfonate (1.35 g, 5.2 mmol) 2,6-di-tert-butylpyridine (1 g, 5.2 mmol) and 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (0.53 g, 3 mmol) in dichloromethane (10 mL) at 0° C. The mixture was warmed to room temperature and stirred for 2 hours. The precipitate formed after 5-10 minutes changed color from yellow to brown. The reaction mixture was diluted with dichloromethane (100 mL) and washed with 1 N hydrochloric acid, saturated sodium bicarbonate and brine, dried and concentrated. The residue was chromatographed on silica gel to give 180 mg (29%) of 4-(2-ethoxy-ethyl)-1,3-dihydro-indol-2-one as a purple oil.

reactant | Ethyl iodide | 6 mmol, 47 mL | C(C)I | C2H5I
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 3 mmol, 0.53 g | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | silver trifluoromethanesulfonate | 5.2 mmol, 1.35 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | 4-(2-ethoxy-ethyl)-1,3-dihydro-indol-2-one | 180 mg, 29% | C(C)OCCC1=C2CC(NC2=CC=C1)=O | C12H15NO2
